US07388095B2
Step 1: 3-(3-Hydroxy-propyl)-3-aza-bicyclo[3.1.0]hexane-2,4-dione
A mixture of cyclopropane-2,3-dicarboxylic acid anhydride (purchased at Acros, Ref 37012-0010, 500 mg, 1.0 eq.) and 3-amino-1-propanol (340 mL, 1.0 eq.) was heated 6 h at 180° C. The reaction mixture was purified on silica, eluting with a 98:2 to 19:1 gradient of dichloromethane/methanol, to yield 360 mg (49%) of the desired product as light yellow solid. MS (m/e): 168.1 (M−H−, 100%)

reactant | cyclopropane-2,3-dicarboxylic acid anhydride | 500 mg, 1.0 eq. | C1C2C1C(=O)OC2=O | C5H4O3
reactant | 3-amino-1-propanol | 340 mL, 1.0 eq. | NCCCO | C3H9NO
product | 3-(3-Hydroxy-propyl)-3-aza-bicyclo[3.1.0]hexane-2,4-dione | 360 mg, 49% | OCCCN1C(C2CC2C1=O)=O | C8H11NO3
